********************************************************************************
* UnitedSiC G3 650V-80mohm SiC JFET Spice Circuit Model v2.0
* Copyright 2018 United Silicon Carbide, Inc.
* This is a PRELIMINARY Spice Model of UJ3N065080K3S
*
*
* The model does not include all possible conditions and effects, 
* in particular it doesn't include: 
*	Self heating
*	leakage current in blocking state
*	Drain to source breakdown is notional only
*
********************************************************************************

*** UJ3N065080K3S ***
.subckt UJ3N065080K3S nd ng ns
*#ASSOC Category="N-Channel JFET" Symbol=njfet
Ld	nd	nd1		5n
Ljg	ng	ng1		10n
Ls	ns	ns1		2n
xj1	nd1	ng1	ns1	jfet_G3_650V_Ron params: Ron=75m Rgon=4 Rgoff=4
.ends
 
*** 650V JFETs ***
.subckt jfet_G3_650V_Ron d g s params: Ron=0 Rgon=0 Rgoff=0
*#ASSOC Category="N-Channel JFET" Symbol=njfet
.param Ron1={Ron}
.param Rgon1={Rgon}
.param Rgoff1={Rgoff}
.param a= {75m/{Ron1}}
X1 di gi s jfet_G3_650V params: ascale={a}
XCgs gi s Cgs_650V params: acgs={a}
XCgd gi di Cgd_650V params: acgd={a}
Cgdex gi di {25p * {a} }	
Cgsex gi s {80p * {a} }					
Rd d di Rtemp {50m/{a}}
.MODEL Rtemp RES (TC1=2.112e-3, TC2=3.6244e-5)
GRg g gi value={if(v(g,gi)>0,v(g,gi)/{Rgon1},v(g,gi)/{Rgoff1})}
.ends jfet_G3_650V_Ron

*** Shared Subcircuit for 650V JFETs ***
.subckt jfet_G3_650V d g s Params: ascale=0
.param Fc1=0.5
.param Pb1=3.25
.param M1=0.5
.param Vd0=400
.param gos={0.0178*{ascale}}
.param gfs={23.5*{ascale}}
.param f=1.763
.param vth=-10

.param cgs1=0.375n
.param cgd1=0.0404n

.param bt={({f}*{gfs}+2*{gos}*{Vd0}/{vth})/2/(-{vth})}
.param lamd={1*{gos}/{bt}/{vth}/{vth}}
.param cgs0={pwr((1+30/{Pb1}),{M1})*{cgs1}}
.param cgd0={pwr((1+{Vd0}/{Pb1}),{M1})*{cgd1}}

J1 d g s jfet_650 1e-30
Dgs g s Dgs_iv 1e-30
Dgd g d Dgd_iv 1e-30
Rgs  g s 1Meg
Rgd  g  d 10Meg

.MODEL jfet_650 NJF(
+ Beta={{bt}*1e30} BetaTce=0 Vto={vth} VtoTc=0  lambda={lamd}
+ Is=1e-30 
+ Cgs={{cgs0}*{ascale}*1e30} Cgd={{cgd0}*{ascale}*1e30} Fc={Fc1} Pb={Pb1}
+ M={M1})

.MODEL Dgs_iv D (CJO=0 BV=40 IS=1e-20 ISR=1e-20 Eg=3.5 Rs=0)
.MODEL Dgd_iv D (CJO=0 BV=850 IBV=1m IS=1e-20 ISR=1e-20 Eg=3.5 Rs={15.1m/{ascale}/1e30})
.ends jfet_G3_650V

* Cgs network	
.subckt Cgs_650V g s params: acgs=0
.param c0=1n
.param vsgmin=-2
.param vsgmax=15
.param a1={0.25n*{acgs}}
.param b1=1
.func Qgs1(u) {- {a1} / {b1} *(exp(- {b1} *u)-1)}  

.param a2={0.35n*{acgs}}
.param b2=0.5
.param c2=8.7
				
.func Qgs2(u) 
+	{if(abs(u)<{vsgmax},
+	{a2}*u + {a2}*(-{b2})*log(cosh((u-{c2})/-{b2}))
+	-{a2}*(-{b2})*log(cosh(-{c2}/-{b2})), 
+	{a2}*{vsgmax} + {a2}*(-{b2})*log(cosh(({vsgmax}-{c2})/-{b2}))
+	-{a2}*(-{b2})*log(cosh(-{c2}/-{b2})))} 
				
E1 s m1 value={v(s,g)-Qgs1(v(s,g))/{c0}}
C01 m1 g {c0}
E2 s m2 value={v(s,g)-Qgs2(limit(v(s,g),-{vsgmax},{vsgmax}))/{c0}}
C02 m2 g {c0}

.ends Cgs_650V

* Cgd network
.subckt Cgd_650V g d params:acgd=0

.param c0=1n

.param a1={0.2n*{acgd}}
.param b1=0.6
.param c1=19
.param vdgmax1=30

.func Qgd1(u) 
+	{if(abs(u)<{vdgmax1},
+	{a1}*u + {a1}*(-{b1})*log(cosh((u-{c1})/-{b1}))
+	-{a1}*(-{b1})*log(cosh(-{c1}/-{b1})), 
+	{a1}*{vdgmax1} + {a1}*(-{b1})*log(cosh(({vdgmax1}-{c1})/-{b1}))
+	-{a1}*(-{b1})*log(cosh(-{c1}/-{b1})))} 

.param a2={0*{acgd}}
.param b2=0.5
.param c2=9.5
.param vdgmax2=15

.func Qgd2(u) 
+	{if(abs(u)<{vdgmax2},
+	(-1)*({a2}*u + {a2}*(-{b2})*log(cosh((u-{c2})/-{b2}))
+	-{a2}*(-{b2})*log(cosh(-{c2}/-{b2}))), 
+	(-1)*({a2}*{vdgmax2} + {a2}*(-{b2})*log(cosh(({vdgmax2}-{c2})/-{b2}))
+	-{a2}*(-{b2})*log(cosh(-{c2}/-{b2}))))}


E1 d m1 value={v(d,g)-Qgd1(limit(v(d,g),-{vdgmax1},+{vdgmax1}))/{c0}}
C01 m1 g {c0}
E2 d m2 value={v(d,g)-Qgd2(limit(v(d,g),-{vdgmax2},+{vdgmax2}))/{c0}}
C02 m2 g {c0}

.ends Cgd_650V


*** End of File ***
 